US08022205B2
A dimethylformamide solution (15 ml) of bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (700 mg, 1.30 mmol), 4-bromo-3-fluorobenzoic acid (341 mg, 1.56 mmol), tris(dibenzylideneacetone)dipalladium (29.7 mg, 0.0324 mmol), X-Phos (61.8 mg, 0.130 mmol) and potassium phosphate (881 mg, 4.15 mmol) was degassed under ultrasonic irradiation, followed by stirring at 100° C. for 24 hours under a nitrogen atmosphere. After the reaction mixture was cooled to room temperature, 6M hydrochloric acid (2 ml) and water (15 ml) were added, followed by stirring at room temperature for 1 hour. The precipitated solid was filtered, and ethyl acetate (15 ml) was added, followed by irradiation of ultrasonic wave. The solid was filtered, and washed with ethyl acetate, whereby 4-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-3-fluoro-benzoic acid was obtained as a yellow solid (679 mg, 77%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 1.30 mmol, 700 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | 4-bromo-3-fluorobenzoic acid | 1.56 mmol, 341 mg | BrC1=C(C=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | X-Phos | 0.130 mmol, 61.8 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | potassium phosphate | 4.15 mmol, 881 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | hydrochloric acid | 6M, 2 ml | Cl | ClH
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0324 mmol, 29.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 15 ml | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-3-fluoro-benzoic acid | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C3=C(C=C(C(=O)O)C=C3)F)CC3=CC=C(C=C3)OC)C=C1 | C37H36FN7O5
